Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Latex
 
Attending: ___.
 
Chief Complaint:
ESRD
 
Major Surgical or Invasive Procedure:
Cadaveric Kidney Transplant ___

 
History of Present Illness:
___ y/o female with history of DM 1 for ___ years, triopathies, 
now on peritoneal dialysis for 18 months who presents for kidney 
transplant.
The patient reports no recent fever or chills. Denies chest pain 
or shortness of breath. History of gastric bypass about ___ years 
ago, and recent evaluation for persistent chronic nausea and 
retching (without vomiting) by Dr ___. She does have a 
pancreatic cyst that has been described as either chronic
pancreattis or IPMN, but has been stable for the past several 
years per his report. The patient has been on peritoneal 
dialysis for approximately 18
months. Since the placement of the catheter the patient has 
never had peritonitis or any mechanical problems with the 
catheter. She uses the cycler at home for 5 total exchanges, and 
has drained to dry prior to admission today.
The patient also has significant neuropathy that limits her 
mobility and has been a cause of recent falls at home. She uses 
a wheelchair or is assisted by her husband.
The patient was recently seen by Dr ___ evaluation of a 
buttock lesion, unsure if this was related to a recent fall. A 
CT was performed showing calcification of the subcutaneous soft 
tissues in the left buttock region. Of note, Heavily calcified 
aorta and branch vessels and there is nonspecific soft 
tissue stranding around one of the branches of the SMA which is 
new.
 
Past Medical History:
MEDICAL HISTORY: 
- ESRD on PD (initiated ___  
- Type 2 DM c/b peripheral neuropathy, autonomic dysfunction 
(orthostatic hypotension), ESRD  
- HTN  
- HL  
- Depression  
- Anxiety  
- Insomnia
- Chronic pancreatitis  
- s/p lithotripsy and stent placement for R ureteral stone ___ 
(Dr. ___
- h/o Diverticulitis
- h/o Lower GI bleed
- h/o Gout
- h/o Urinary tract infections   
  
SURGICAL HISTORY:
--s/p hysterectomy  
--s/p gastric bypass 2 or ___ years ago  
--s/p lumpectomy  
--s/p vein stripping 
 
Social History:
___
Family History:
Her mother died at the age of ___- had h/o MI and died of sepsis. 
 Her father died at the age of ___ from stroke.  There is no 
significant family history of cancers. Her daughter has 
pre-diabetes.  

 
Physical Exam:
VS: 98.2, 105, 143/67, 20, 98% RA, wt 61.7 kg
General: Frail, anxious
HEENT: No scleral icterus, no oral thrush or lesions
Card: RRR, no M/R/G
Lungs: CTA bilaterally
Abdomen: Soft, non-tender, PD catheter in place, exit site 
C/D/I,
old gastric bypass scar
Extr: mild lower extremity edema, 2+ femoral pulses bilaterally,
1 + DPs bilaterally, feet cool, pale
Buttock/skin: Left buttock near anus is grey/discolored.
approximately ___ cm solid "nodes" can be palpated. (CT reports
calcifications) No open areas on sacrum or at the site of the
buttock lesion. Several dark pink lesions noted on left shoulder
and legs, no drainage or bleeding, dry skin overall noted, no
rashes.
Neuro: A+O x 3

 
Pertinent Results:
___ 07:01PM   GLUCOSE-97 UREA N-48* CREAT-6.4*# SODIUM-140 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-21* ANION GAP-20
___ 07:01PM   CALCIUM-8.0* PHOSPHATE-6.1* MAGNESIUM-2.0
___ 07:01PM   WBC-14.2* RBC-3.91*# HGB-11.3*# HCT-35.2*# 
MCV-90 MCH-29.0 MCHC-32.2 RDW-15.5
___ 07:01PM   PLT COUNT-279
___ 05:13PM   ___ PH-7.39
___ 05:13PM   GLUCOSE-104 LACTATE-1.0 NA+-134 K+-3.6 CL--99 
TCO2-26
___ 05:13PM   HGB-6.6* calcHCT-20
___ 05:13PM   freeCa-0.92*
___ 04:51PM   ___ PH-7.39 INTUBATED-INTUBATED 
VENT-CONTROLLED COMMENTS-SPEC. ___ 04:51PM   GLUCOSE-48* LACTATE-0.5 NA+-140 K+-1.5* 
CL--128* TCO2-10*
___ 04:51PM   HGB-3.4* calcHCT-10
___ 04:51PM   freeCa-0.61*
___ 10:55AM   GLUCOSE-44* UREA N-58* CREAT-7.8*# SODIUM-140 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-29 ANION GAP-17
___ 10:55AM   estGFR-Using this
___ 10:55AM   ALT(SGPT)-25 AST(SGOT)-18
___ 10:55AM   ALBUMIN-2.4* CALCIUM-8.1* PHOSPHATE-5.5* 
MAGNESIUM-2.3
___ 10:55AM   HCG-12
___ 10:55AM   WBC-9.8 RBC-2.93* HGB-8.1* HCT-26.0* MCV-89 
MCH-27.8 MCHC-31.3 RDW-15.5
___ 10:55AM   PLT COUNT-311
___ 10:55AM   ___ PTT-30.3 ___ F admitted from home for a deceased donor kidney transplant.

On ___, she underwent perfect match renal transplant. 
Surgeon was Dr. ___. Please refer to operative note 
for details. She received routine induction immunosuppression to 
include mycophenolate, 500 mg of Solu-Medrol and Simulect. At 
the end of the procedure the transplanted kidney was noted to be 
nicely pink with good pulse and thrills in the arteries. A 
double J ureteral stent and ___ drain were placed. ___ drain 
was positioned around the anastomosis and adjacent to the 
bladder anastomosis.

She was taken to the PACU post-operatively and was 
hemodynamically stable. Pain was not well controlled in the 
PACU, so she was changed from a morphine PCA to a dialuadid PCA. 
She also had several episodes of apnea without 02 desaturations, 
likely secondary to oversedation. She was transferred to the 
floor on continous O2 monitoring with a CPAP ordered for sleep. 
She was started on a clear liquid diet, which she tolerated, and 
a bowel regimen. On POD 1 she was found to be increasingly 
somnolent, her PCA lockout time was increased to 15 minutes, 
after which the patient was more alert and responsive. On POD 1 
her UOP decreased to ___. She was given a 500cc IVF bolus 
with minimal response, her foley was flushed and she immediatly 
put out 615cc of urine; her UOP increased steadily to 
100-200cc/hr by POD 2. 
Continuous O2 monitoring was discontinued on POD 2 after 
reevaluation by respiratory therapy. She was started on a 
regular diet on POD 2, given her history of IDDM, a consult was 
placed with the ___, who continued to follow 
and manage her diabetes during her hospital stay. She also began 
to experience episodes of hypertension, with systolic blood 
pressures elevated to the 180s-190s (supine). Blood pressures 
taken while the patient was seated were found to be in the 150s 
systolic. Transplant nephrology was consulted who recommeneded 
starting her on 12.5mg of PO metoprolol BID. On POD 3 she showed 
no response to PO metoprolol, with systolic blood pressures as 
high as 210s. She was given 15mg of IV metoprolol, which also 
yielded no response. After a 5mg dose of IV hydarlazine her 
systolic blood pressure decreased to the 150s systolic. On POD 4 
she was started on 5mg amlodipine and her metoprolol was 
increased to 50mg BID. IVF was discontinued. Amlodipine was 
further increased on ___ for sbp in 170-190 range. 

She was placed on the immunosuppresion protocol post-operatively 
which consisted of steroid taper, Cellcept, Prograf which was 
started on POD 1 and Simulect (intraop  and postop day 4). On 
POD 5 she completed her steroid taper, her blood pressures 
moderated, with systolic BP in the 140-160 range. At that time 
the patient was tolerating a regular diet, ambulatory and her 
pain was well controlled. On the day of discharge she and her 
husband were provided with medication teaching and were 
comfortable with administering her medication regimen at home. 

Physical therapy evaluated and recommended home with services. A 
previously scheduled Gastroenterology appointment for ___ 
was canceled and will need to be rescheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Acetate ___ mg PO TID W/MEALS 
2. Epoetin Alfa 1000 units SC WEEKLY Start: HS 
3. Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
4. Lorazepam 2 mg PO HS 
5. Midodrine 5 mg PO BID 
8 AM and 2 ___ 
6. Mupirocin Cream 2% 1 Appl TP DAILY PD exit site 
7. Ondansetron 4 mg PO BID 
8. Klor-Con M20 *NF* (potassium chloride) 20 mEq Oral daily 
9. Rosuvastatin Calcium 40 mg PO HS 
10. Sertraline 100 mg PO DAILY 
11. Cetirizine *NF* 10 mg Oral HS 
12. melatonin *NF* 3 mg Oral HS 
13. Polyethylene Glycol 17 g PO DAILY 
14. Sodium Chloride 1 gm PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
ESRD now s/p cadaveric kidney transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever, 
chills, nausea, vomiting, diarrhea, constipation, increased 
abdominal pain, pain over the graft kidney, decreased urine 
output, painful urination, blood in the urine, inability to 
tolerate food, fluids or medications, or other concerning 
symptoms.
Monitor the incision for redness, drainage or bleeding. 

Please have labs drawn every ___ and ___ at the ___ 
___ Deaconess lab in the ___ Building, ___ 
floor. Continue this schedule until further notice from the 
transplant clinic.
 
No lifting greater than 10 pounds
There have been many changes to your medication regimen. Please 
follow the medication sheet in your transplant binder
Urine output monitoring daily, bring copy to transplant clinic
BP monitoring daily. Call if > 160 systolic or less than 110 
systolic. Bring copy of report to clinic
Change JP drain sponge daily, monitor drain site for redness, 
drainage or bleeding. Drain and record the JP drain output and 
call if it increases significantly, stops completely or turns 
bloody, cloudy in appearance or develops a foul odor.

 
Followup Instructions:
___